US04892961
(R)-(+)-3-(t-Butyldimethylsilyloxy)-2-methyl-1-propanol (3.0 g; 14.7 mmol) was added to a mixture of dimethylsulfoxide (20 ml) and triethylamine (13.4 ml), and a solution of the pyridine complex of sulfur trioxide (6.9 g; 43.3 mmol) in dimethylsulfoxide (20 ml) was added thereto at a temperature below 20° C. under stirring. Stirring was continued for 10 minutes, and an aqueous solution (80 ml) of 2M potassium dihydrogenphosphate and ice (40 g) were added thereto to stop the reaction. Insoluble materials were removed by filtration, and the filtrate was extracted with hexane (100 ml) three times. The organic layer was washed successively with water and aqueous sodium chloride and dried over anhydrous sodium sulfate. Removal of the solvent by distillation under reduced pressure gave (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal (2.46 g; yield, 81%) as a colorless oil. The NMR spectrum of this product was identical to that of the product as obtained in Reference Example 2-1.

reactant | (R)-(+)-3-(t-Butyldimethylsilyloxy)-2-methyl-1-propanol | 14.7 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](CO)C | C10H24O2Si
reactant | triethylamine | 13.4 ml | C(C)N(CC)CC | C6H15N
reactant | sulfur trioxide | 43.3 mmol, 6.9 g | S(=O)(=O)=O | O3S
reactant | potassium dihydrogenphosphate | 2M, 80 ml | P(=O)(O)(O)[O-].[K+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropanal | 2.46 g, 81% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C=O)C | C10H22O2Si
